US08614206B2
A solution of 5-chloro-1-(2,2-difluoroethyl)-4-nitro-1H-pyrazole (470 mg, 2.22 mmol), azepan-4-ol (281 mg, 2.44 mmol) and DIPEA (1 mL) in EtOH (3 mL) was heated at 155° C. in the microwave for 5 hr. The solvent was removed under reduced pressure and the residue purified by silica gel column chromatography (0-100% EtOAc/isohexane) to give 1-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)azepan-4-ol as a pale orange gum (400 mg). This gum (390 mg, 1.35 mmol) was dissolved in MeOH (25 mL) and treated with ammonium formate (340 mg, 5.38 mmol) and 10% palladium on carbon (50 mg). The mixture was heated at 85° C. for 4 hr. After standing at room temperature overnight more ammonium formate (205 mg, 3.25 mmol) and 10% palladium on carbon (50 mg) were added to the reaction mixture which was then heated at 85° C. for 1 hr. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was partitioned between DCM (30 mL) and water (20 mL). The organic layer was passed through a phase separation cartridge and the solvent was removed under reduced pressure to afford 1-(4-amino-1-(2,2-difluoroethyl)-1H-pyrazol-5-yl)azepan-4-ol as an orange oil (265 mg, 42% over two steps). 1H NMR (400 MHz, CDCl3) δ 7.17 (s, 1H), 6.27-5.91 (m, 1H), 4.39-4.23 (m, 2H), 4.16-4.04 (m, 1H), 3.30-3.11 (m, 4H), 2.60 (br s, 3H), 2.55 (s, 2H), 2.08-1.81 (m, 3H), 1.80-1.71 (m, 1H).

reactant | 5-chloro-1-(2,2-difluoroethyl)-4-nitro-1H-pyrazole | 2.22 mmol, 470 mg | ClC1=C(C=NN1CC(F)F)[N+](=O)[O-] | C5H4ClF2N3O2
reactant | azepan-4-ol | 2.44 mmol, 281 mg | N1CCC(CCC1)O | C6H13NO
reactant | DIPEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 3 mL | CCO | C2H6O
product | 1-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)azepan-4-ol | 400 mg | FC(CN1N=CC(=C1N1CCC(CCC1)O)[N+](=O)[O-])F | C11H16F2N4O3
